* DIODES INCORPORATED AND ITS AFFILIATED COMPANIES AND SUBSIDIARIES (COLLECTIVELY, "DIODES") 
* PROVIDE THESE SPICE MODELS AND DATA (COLLECTIVELY, THE "SM DATA") "AS IS" AND WITHOUT ANY 
* REPRESENTATIONS OR WARRANTIES, EXPRESS OR IMPLIED, INCLUDING ANY WARRANTY OF MERCHANTABILITY 
* OR FITNESS FOR A PARTICULAR PURPOSE, ANY WARRANTY ARISING FROM COURSE OF DEALING OR COURSE OF 
* PERFORMANCE, OR ANY WARRANTY THAT ACCESS TO OR OPERATION OF THE SM DATA WILL BE UNINTERRUPTED, 
* OR THAT THE SM DATA OR ANY SIMULATION USING THE SM DATA WILL BE ERROR FREE. TO THE MAXIMUM 
* EXTENT PERMITTED BY LAW, IN NO EVENT WILL DIODES BE LIABLE FOR ANY DIRECT OR INDIRECT, 
* SPECIAL, INCIDENTAL, PUNITIVE OR CONSEQUENTIAL DAMAGES ARISING OUT OF OR IN CONNECTION WITH 
* THE PRODUCTION OR USE OF SM DATA, HOWEVER CAUSED AND UNDER WHATEVER CAUSE OF ACTION OR THEORY 
* OF LIABILITY BROUGHT (INCLUDING, WITHOUT LIMITATION, UNDER ANY CONTRACT, NEGLIGENCE OR OTHER 
* TORT THEORY OF LIABILITY), EVEN IF DIODES HAS BEEN ADVISED OF THE POSSIBILITY OF SUCH DAMAGES, 
* AND DIODES' TOTAL LIABILITY (WHETHER IN CONTRACT, TORT OR OTHERWISE) WITH REGARD TO THE SM 
* DATA WILL NOT, IN THE AGGREGATE, EXCEED ANY SUMS PAID BY YOU TO DIODES FOR THE SM DATA.



*ZETEX ZXM61N03F Spice Model v1.0 Last Revised 23/1/03
    *
    .SUBCKT ZXM61N03F 3 4 5
    *----connections----D-G-S
    *
    M1 6 2 8 8 MOSMOD
    M2 6 2 8 8 MOSMODS
    RG 4 2 6
    RIN 2 8 200E6
    RD 3 6 RDSMOD 0.15
    RS 8 5 RDSMOD 0.024
    RL 3 5 35E6
    C1 2 8 135E-12
    C2 2 3 17E-12 
    C3 15 14 175E-12
    C4 16 8 183E-12
    D1 5 3 DMOD1
    S1 2 15 14 13 SMOD1a
    S2 13 15 14 13 SMOD1b
    S3 16 13 13 8 SMOD2a
    S4 16 2 13 8 SMOD2b
    Egs2 13 8 2 8 1
    Eds1 14 8 3 8 1
    .MODEL MOSMOD NMOS VTO=2.2 IS=1E-15 KP=2.5 CBD=85E-12 LAMBDA=4.9E-3
    .MODEL MOSMODS NMOS VTO=1.8 IS=1E-15 KP=0.02
    .MODEL DMOD1 D IS=1E-13 RS=0.15 BV=38 IBV=1E-6 TT=9e-9
    .MODEL SMOD1a VSWITCH RON=1e-2 ROFF=1e4  VON=-1.5 VOFF=1.5
    .MODEL SMOD1b VSWITCH RON=1e-2 ROFF=1e4  VON=1.5 VOFF=-1.5
    .MODEL SMOD2a VSWITCH RON=1e2 ROFF=1e4  VON=-1.5 VOFF=-3.5
    .MODEL SMOD2b VSWITCH RON=1e-2 ROFF=1e4  VON=-3.5 VOFF=-1.5
    .MODEL RDSMOD RES (TC1=3E-3 TC2=2E-5)
    .ENDS  ZXM61N03F
    *
    *$
    *